US07176210B2
Preparation of 3-(4-Chlorophenyl)-2-(2-chlorophenyl)-7-isopropoxy-5-methylpyrazolo[1,5-a]pyrimidine (8A-1)
To a solution of 7-chloro-3-(4-chlorophenyl)-2-(2-chlorophenyl)-5-methylpyrazolo[1,5-a]pyrimidine (I-3A-4b; 59 mg, 0.15 mmol) in THF (0.5 ml) and isopropanol (0.5 ml) was added NaH (60% dispersion in oil, 30 mg, 0.76 mmol). After stirring for 1 hour, the reaction was extracted from saturated aqueous NaHCO3 with ethyl acetate, the combined organic layers were dried (MgSO4), concentrated and purified on a Biotage™ Flash 12M column using 0–35% ethyl acetate in hexanes as eluant to afford 8A-1 (59 mg, 95%) as a colorless solid: +ESI MS (M+1) 412.4; 1H NMR (400 MHz, CD2Cl2) δ 7.50–7.36 (m, 6H), 7.23 (d, J=8.7 Hz, 2H), 6.19 (s, 1H), 4.99 (septuplet, J=6.1 Hz, 1H), 2.62 (s, 3H), 1.57 (d, J=5.8 Hz, 6H).

reactant | 7-chloro-3-(4-chlorophenyl)-2-(2-chlorophenyl)-5-methylpyrazolo[1,5-a]pyrimidine | 0.15 mmol, 59 mg | ClC1=CC(=NC=2N1N=C(C2C2=CC=C(C=C2)Cl)C2=C(C=CC=C2)Cl)C | C19H12Cl3N3
reactant | NaH | 0.76 mmol, 30 mg | [H-].[Na+]
reactant | isopropanol | 0.5 ml | C(C)(C)O | C3H8O
solvent | THF | 0.5 ml | C1CCOC1 | C4H8O
product | 3-(4-Chlorophenyl)-2-(2-chlorophenyl)-7-isopropoxy-5-methylpyrazolo[1,5-a]pyrimidine | ClC1=CC=C(C=C1)C=1C(=NN2C1N=C(C=C2OC(C)C)C)C2=C(C=CC=C2)Cl | C22H19Cl2N3O
